US07888344B2
2-Bromo-5-(2-furyl)cyclohexane-1,3-dione
To a stirred solution of 5-(2-furyl)cyclohexane-1,3-dione (1 g, 5.6 mmol) in THF (50 mL) was added N-bromosuccinimide (1 g, 5.6 mmol). The reaction mixture was heated to 85° C. for 12 h and on completion was filtered. The filtrate was concentrated in vacuo to give the title compound (1.0 g, 69%) as a white solid. LCMS (ES+) 256.8 (M+H)+.

reactant | 5-(2-furyl)cyclohexane-1,3-dione | 5.6 mmol, 1 g | O1C(=CC=C1)C1CC(CC(C1)=O)=O | C10H10O3
reactant | N-bromosuccinimide | 5.6 mmol, 1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-Bromo-5-(2-furyl)cyclohexane-1,3-dione | 1.0 g, 69% | BrC1C(CC(CC1=O)C=1OC=CC1)=O | C10H9BrO3
